US05631373
N-(5'-Bromo-4'-fluoro-2'-nitrophenyl)glycine sodium salt:
To a stirred solution of 1-bromo-2,5-difluoro-4-nitrobenzene (1.100 g, 4.622 mmol, as prepared above) in DMF (11.0 mL) at 70° C., was added, dropwise, a solution of sodium glycinate (0.451 g, 4.65 mmol, Aldrich, used as received) in water (5.0 mL). The resulting solution was stirred overnight at 70° C. The solution was cooled to room temperature and the bright orange solid was filtered, washed with cold acetone (10 mL) and dried under vacuum to give 0.469 g (35%) of the title compound as a bright orange powder; 1H NMR (DMSO-d6): δ3.458 (d, 2H, J=3.9 Hz), 7.148 (d, 1H, J=6.0 Hz), 7.944 (d, 1H, J=9.3 Hz), 8.740 (s, 1H).

reactant | 1-bromo-2,5-difluoro-4-nitrobenzene | 4.622 mmol, 1.100 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | sodium glycinate | 4.65 mmol, 0.451 g | NCC(=O)[O-].[Na+]
solvent | DMF | 11.0 mL | CN(C)C=O | C3H7NO
solvent | water | 5.0 mL | O | H2O
product | N-(5'-Bromo-4'-fluoro-2'-nitrophenyl)glycine sodium salt | 0.469 g, 35% | [Na+].BrC=1C(=CC(=C(C1)NCC(=O)[O-])[N+](=O)[O-])F | InChI=1S/C8H6BrFN2O4.Na/c9-4-1-6(11-3-8(13)14)7(12(15)16)2-5(4)10;/h1-2,11H,3H2,(H,13,14);/q;+1/p-1
